US08871782B2
tert-Butyl 2-iodoethylcarbamate (2.55 g, 9.41 mmol), prepared as described in Parts J and K of Example 2, was added to a mixture of 2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol (2.00 g, 7.83 mmol) and cesium carbonate (3.83 g, 11.7 mmol) in DMF (30 mL), and the reaction was heated at 60° C. for four hours. The solvent was removed under reduced pressure, and the resulting solid was triturated with water and isolated by filtration to yield 2.57 g of tert-butyl 2-{[2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate as a light-brown solid.

reactant | tert-Butyl 2-iodoethylcarbamate | 9.41 mmol, 2.55 g | ICCNC(OC(C)(C)C)=O | C7H14INO2
reactant | 2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | 7.83 mmol, 2.00 g | CC=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CC(C)C | C15H17N3O
reactant | cesium carbonate | 11.7 mmol, 3.83 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-{[2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate | 2.57 g | CC=1N(C2=C(C=NC=3C=C(C=CC23)OCCNC(OC(C)(C)C)=O)N1)CC(C)C | C22H30N4O3
